US09034900B2
Step 1: 5-(5-ethylsulfonyl-2-fluorophenyl)-3-methoxy-1-methylpyridin-2-one
To a solution of 5-bromo-3-methoxy-1-methylpyridin-2-one (694 mg, 3.18 mmol), 2-(5-ethylsulfonyl-2-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1 g, 3.18 mmol), Pd(dppf)Cl2 (233 mg, 318.00 umol) in dioxane (26 mL) and H2O (2.6 mL) was added K3PO4 (2.02 g, 9.54 mmol, 3.00 Eq). The reaction was stirred at 70° C. under N2 for 6 hrs. The mixture was concentrated and the residue was purified by silica gel column chromatography (PE/EA=3/1 to 1/2) to afford the title compound (0.9 g, 87%) as a brown solid. 1H NMR (CDCl3, 400 MHz) δ 7.93 (dd, J1=7.2 Hz, J2=2.0 Hz, 1H), 7.88-7.84 (m, 1H), 7.35 (dd, J1=10.0 Hz, J2=8.8 Hz, 1H), 7.23 (d, J=1.6 Hz, 1H), 6.83 (s, 1H), 3.89 (s, 3H), 3.67 (s, 3H), 3.16 (q, J=7.6 Hz, 2H), 1.33 (t, J=7.6 Hz, 3H). LCMS: 325.9 (M+H)+

reactant | 5-bromo-3-methoxy-1-methylpyridin-2-one | 3.18 mmol, 694 mg | BrC=1C=C(C(N(C1)C)=O)OC | C7H8BrNO2
reactant | 2-(5-ethylsulfonyl-2-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.18 mmol, 1 g | C(C)S(=O)(=O)C=1C=CC(=C(C1)B1OC(C(O1)(C)C)(C)C)F | C14H20BFO4S
reactant | K3PO4 | 9.54 mmol, 2.02 g, 3.00 Eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 26 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2.6 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 318.00 umol, 233 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(5-ethylsulfonyl-2-fluorophenyl)-3-methoxy-1-methylpyridin-2-one | 0.9 g, 87% | C(C)S(=O)(=O)C=1C=CC(=C(C1)C=1C=C(C(N(C1)C)=O)OC)F | C15H16FNO4S
